US08309542B2
(b) (3RS,4RS)-1-Benzyl-4-methyl-pyrrolidine-3-carboxylic acid (as hydrochloride salt)
2.0 g (5.7 mmol) methyl (3RS,4RS)-1-benzyl-4-methyl-pyrrolidine-3-carboxylate (as the trifluoroacetate salt) are dissolved in 4 ml of methanol and combined with 5 ml lithium hydroxide solution (8% in water). The mixture is stirred for five hours at RT, then mixed with 3.2 ml 4N hydrochloric acid and evaporated to dryness.

reactant | methyl (3RS,4RS)-1-benzyl-4-methyl-pyrrolidine-3-carboxylate | 5.7 mmol, 2.0 g | C(C1=CC=CC=C1)N1CC(C(C1)C)C(=O)OC | C14H19NO2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | lithium hydroxide | 5 ml | [OH-].[Li+]
reactant | hydrochloric acid | 4N, 3.2 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | (3RS,4RS)-1-Benzyl-4-methyl-pyrrolidine-3-carboxylic acid | C(C1=CC=CC=C1)N1CC(C(C1)C)C(=O)O | C13H17NO2
